US03987052
In the manner given in Example 2, 6-nitro-1,3-dihydro-5-(o-cyanophenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with acetic acid hydrazide and the resulting product heated to 250° C. to give 7-nitro-1-methyl-6-(o-cyanophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6-nitro-1,3-dihydro-5-(o-cyanophenyl)-2H-1,4-benzodiazepine-2-thione | [N+](=O)([O-])C1=CC=CC2=C1C(=NCC(N2)=S)C2=C(C=CC=C2)C#N | C16H10N4O2S
reactant | acetic acid hydrazide | C(C)(=O)NN | C2H6N2O
solvent | ethanol | C(C)O | C2H6O
product | 7-nitro-1-methyl-6-(o-cyanophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C1=CC=CC2=C1C(=NCC=1N2C(=NN1)C)C1=C(C=CC=C1)C#N | C18H12N6O2
